US05859007
2-[3-(2-Benzyl-5-methyl-2H-pyrazol-3ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide
To a stirring solution of 300 mg (0.66 mmol) of 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as in Intermediate 4, in 5 mL of DMF at 0° C. is added 1.57 mL (0.79 mmol, 1.2 equiv) of a 0.5M solution of KN(TMS)2 in toluene. The resulting solution is stirred 5 min, and a solution of 190 mg (0.72 mmol, 1.1 equiv.) of 1-Benzyl-5-bromomethyl-3-methyl-1H-pyrazole, prepared as in Intermediate 56, in 2 mL of DMF is added. The resulting solution is stirred for 18 h at RT then quenched with 5 mL of H2O. The reaction mixture is poured into 50 mL of EtOAc and extracted with H2O (2×50 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification by silica gel flash column chromatography using hexane/EtOAc 1/2 as eluent afforded 254 mg of the title compound as a white solid: mp 117°-120° C.; 1H NMR (CDCl3, 400 MHz) δ7.37-7.02 (m, 15H), 6.94 (m, 2H), 6.85 (d, 1H, J=7.4), 5.80(s, 1H), 5.30 (dd, 2H, J=16.1, 30.9), 4.98 (m, 1H), 4.19 (dd, 2H, J=15.6, 76.0), 3.83 (s, 3H), 3.43 (t, 1H, J=6.7), 3.25 (ddd, 1H, J=7.1, 16.0, 40.5), 2.20 (s, 3H), 1.06 (m, 6H); low resolution MS (FAB)m/e 642 (MH+), 641 (M+); Anal. (C39H39N5O4) Calcd. C, 72.99; H, 6.13; N, 10.91 Found C, 72.86; H, 6.11; N, 10.96.

reactant | 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.66 mmol, 300 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O4
reactant | 1-Benzyl-5-bromomethyl-3-methyl-1H-pyrazole | 0.72 mmol, 190 mg, 1.1 equiv. | C(C1=CC=CC=C1)N1N=C(C=C1CBr)C | C12H13BrN2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[3-(2-Benzyl-5-methyl-2H-pyrazol-3ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 254 mg | C(C1=CC=CC=C1)N1N=C(C=C1CC1C(N(C2=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O)C | C39H39N5O4
